US05545652
To the mixture of the obtained N-(2-phthalimido)ethyl-4-(2,2,3,3-tetrafluoropropoxy)aniline (3.2 g), triethylamine (1.2 ml) and dichloromethane (60 ml), was added dropwise a solution of ethyl chloroglyoxylate (0.9 ml) in dichloromethane (10 ml) at -65° C. The reaction solution was stirred for 1 hour at -40° C., and then ice-water (50 ml) was added thereto to fractionate. The dichloromethane layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was recrystallized from ethyl acetate-hexane to give N-ethoxalyl-N-(2-phthalimido)ethyl-4-(2,2,3,3-tetrafluoropropoxy)aniline (3.1 g) as colorless powdery crystals.

reactant | N-(2-phthalimido)ethyl-4-(2,2,3,3-tetrafluoropropoxy)aniline | 3.2 g | C1(C=2C(C(N1CCNC1=CC=C(C=C1)OCC(C(F)F)(F)F)=O)=CC=CC2)=O | C19H16F4N2O3
reactant | triethylamine | 1.2 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroglyoxylate | 0.9 ml | ClC(C(=O)OCC)=O | C4H5ClO3
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | N-ethoxalyl-N-(2-phthalimido)ethyl-4-(2,2,3,3-tetrafluoropropoxy)aniline | 3.1 g | C(=O)(C(=O)OCC)N(C1=CC=C(C=C1)OCC(C(F)F)(F)F)CCN1C(C=2C(C1=O)=CC=CC2)=O | C23H20F4N2O6
